### PR TITLE
[Merged by Bors] - chore: golf using `grw`

### PR DESCRIPTION
**Pull request by JovanGerb**
This PR cleans up some proofs using `grw`. It also tags a few lemmas with `@[gcongr]` that were required for the proofs.

---

- [x] depends on: #26907

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by JovanGerb** [comment]
@grunweg, would you like to review this? It seems to pick up merge conflicts somewhat quickly.

**Comment by grunweg** [comment]
Sure, no problem! Let me take a look.

File: Archive/Wiedijk100Theorems/CubingACube.lean [hunk 1]
```diff
@@ -355,7 +355,7 @@ theorem smallest_onBoundary {j} (bi : OnBoundary (mi_mem_bcubes : mi h v ∈ _)
   have hs : s.Nonempty := by
     rcases (nontrivial_bcubes h v).exists_ne i with ⟨i', hi', h2i'⟩
     exact ⟨i', hi', h2i'⟩
-  rcases Set.exists_min_image s (w ∘ cs) (Set.toFinite _) hs with ⟨i', ⟨hi', h2i'⟩, h3i'⟩
+  rcases Set.exists_min_image s (w <| cs ·) (Set.toFinite _) hs with ⟨i', ⟨hi', h2i'⟩, h3i'⟩
```
Comment (grunweg) [inline Archive/Wiedijk100Theorems/CubingACube.lean:358]: Is this necessary for the `grw` to work?

File: Mathlib/Algebra/Module/Submodule/IterateMapComap.lean [hunk 2]
```diff
@@ -53,7 +53,7 @@ theorem iterateMapComap_le_succ (K : Submodule R N) (h : K.map f ≤ K.map i) (n
     calc
       _ ≤ (f.iterateMapComap i n K).map i := map_comap_le _ _
       _ ≤ (((f.iterateMapComap i n K).map f).comap f).map i := map_mono (le_comap_map _ _)
-      _ ≤ _ := map_mono (comap_mono ih)
+      _ ≤ _ := by gcongr; exact ih
```
Comment (grunweg) [inline Mathlib/Algebra/Module/Submodule/IterateMapComap.lean:56]: Can you also golf the line above this one?

File: Mathlib/MeasureTheory/Integral/Bochner/Set.lean [hunk 3]
```diff
@@ -690,6 +690,7 @@ theorem setIntegral_mono_ae_restrict (h : f ≤ᵐ[μ.restrict s] g) :
 theorem setIntegral_mono_ae (h : f ≤ᵐ[μ] g) : ∫ x in s, f x ∂μ ≤ ∫ x in s, g x ∂μ :=
   setIntegral_mono_ae_restrict hf hg (ae_restrict_of_ae h)
 
+@[gcongr high] -- higher priority than `integral_mono`
```
Comment (grunweg) [inline Mathlib/MeasureTheory/Integral/Bochner/Set.lean:693]: This comment makes me a bit nervous. Do we have a principled strategy to avoid a blow-up of priorities/ do we ever need priority `higher`/could we get a cycle of lemmas which want to be higher priority than each other?

Comment (grunweg) [reply Mathlib/MeasureTheory/Integral/Bochner/Set.lean:693]: Perhaps all is fine, there's a clear system and nothing will happen --- if so, can you document that order, please?

File: Mathlib/Order/PrimeSeparator.lean [hunk 4]
```diff
@@ -39,7 +39,7 @@ namespace DistribLattice
 
 
 lemma mem_ideal_sup_principal (a b : α) (J : Ideal α) : b ∈ J ⊔ principal a ↔ ∃ j ∈ J, b ≤ j ⊔ a :=
-  ⟨fun ⟨j, ⟨jJ, _, ha', bja'⟩⟩ => ⟨j, jJ, le_trans bja' (sup_le_sup_left ha' j)⟩,
+  ⟨fun ⟨j, ⟨jJ, _, ha', bja'⟩⟩ => ⟨j, jJ, by grw [bja', mem_principal.mp ha']⟩,
```
Comment (grunweg) [inline Mathlib/Order/PrimeSeparator.lean]: Hm, I'm on the fence about this one. Can you say why you prefer this?

**Review by grunweg — COMMENTED** [review]
Thanks a lot for doing this. I reviewed 49/73 files so far (bedtime now...), will hopefully finish the the rest tomorrow. These golfs are very nice!

File: Archive/Wiedijk100Theorems/CubingACube.lean (hunk 1 above)
Comment (JovanGerb) [reply Archive/Wiedijk100Theorems/CubingACube.lean:358]: Yes. grw/rw work with reducible transparency, so they can't unfold function composition.

File: Mathlib/Order/PrimeSeparator.lean (hunk 4 above)
Comment (JovanGerb) [reply Mathlib/Order/PrimeSeparator.lean]: One advantage of `grw` here is that it forces you to not abuse any defeq, since everything has to work in reducible transparency. But I agree that this is not a clear improvement at all.

File: Archive/Wiedijk100Theorems/CubingACube.lean (hunk 1 above)
Comment (JovanGerb) [reply Archive/Wiedijk100Theorems/CubingACube.lean:358]: The alternative is to unfold the composition further on in the proof

File: Mathlib/MeasureTheory/Integral/Bochner/Set.lean (hunk 3 above)
Comment (JovanGerb) [reply Mathlib/MeasureTheory/Integral/Bochner/Set.lean:693]: The difference with the other lemma is that you get the extra hypothesis `x ∈ s` in your subgoal. That should probably be in the comment too.

**Comment by JovanGerb** [comment]
Thanks for the reviews! I won't have my laptop for a week now, so feel free to make the changes you suggested yourself.

File: Mathlib/Algebra/Module/Submodule/IterateMapComap.lean (hunk 2 above)
Comment (JovanGerb) [reply Mathlib/Algebra/Module/Submodule/IterateMapComap.lean:56]: Yes, that should probably work with `by grw [← le_comap_map]`

**Comment by JovanGerb** [comment]
This PR doesn't do this, but what do you think about removing `calc` blocks by using `grw`? On the one hand I think calc blocks improve readability, but on the other hand I think often a calc block is just there because the `grw` tactic didn't exist yet when the proof was written.

**Comment by JovanGerb** [comment]
@grunweg, would you like to fiinish reviewing this PR?

File: Mathlib/Analysis/NormedSpace/OperatorNorm/NNNorm.lean [hunk 5]
```diff
@@ -166,8 +166,9 @@ theorem sSup_unitClosedBall_eq_nnnorm (f : E →SL[σ₁₂] F) :
     exact f.unit_le_opNorm x (mem_closedBall_zero_iff.1 hx)
   refine le_antisymm (csSup_le ((nonempty_closedBall.mpr zero_le_one).image _) hbdd) ?_
   rw [← sSup_unit_ball_eq_nnnorm]
-  exact csSup_le_csSup ⟨‖f‖₊, hbdd⟩ ((nonempty_ball.2 zero_lt_one).image _)
-    (Set.image_mono ball_subset_closedBall)
+  gcongr
+  · exact ⟨‖f‖₊, hbdd⟩
+  exact ball_subset_closedBall
```
Comment (grunweg) [inline Mathlib/Analysis/NormedSpace/OperatorNorm/NNNorm.lean]: What do you think about using `exacts` here?

File: Mathlib/SetTheory/Ordinal/Enum.lean [hunk 6]
```diff
@@ -104,9 +104,9 @@ theorem enumOrd_le_of_subset {t : Set Ordinal} (hs : ¬ BddAbove s) (hst : s ⊆
     enumOrd t ≤ enumOrd s := by
   intro a
   rw [enumOrd, enumOrd]
-  apply csInf_le_csInf' (enumOrd_nonempty hs a) (inter_subset_inter hst _)
-  intro b hb c hc
-  exact (enumOrd_le_of_subset hs hst c).trans_lt <| hb c hc
+  gcongr with b c
+  · exact enumOrd_nonempty hs a
+  exact enumOrd_le_of_subset hs hst c
```
Comment (grunweg) [inline Mathlib/SetTheory/Ordinal/Enum.lean]: Same question. (If these goals are not on equal footing, this version is also fine.)

File: Mathlib/Algebra/Order/Field/Basic.lean [hunk 7]
```diff
@@ -185,9 +185,9 @@ instance (priority := 100) LinearOrderedSemiField.toDenselyOrdered : DenselyOrde
     ⟨(a₁ + a₂) / 2,
       calc
         a₁ = (a₁ + a₁) / 2 := (add_self_div_two a₁).symm
-        _ < (a₁ + a₂) / 2 := div_lt_div_of_pos_right (add_lt_add_left h _) zero_lt_two,
+        _ < (a₁ + a₂) / 2 := by gcongr; exact zero_lt_two, -- TODO: why doesn't `positivity` work?
```
Comment (grunweg) [inline Mathlib/Algebra/Order/Field/Basic.lean]: This works, so probably it's an issue with imports:
```
import Mathlib.Algebra.Order.Ring.Star
import Mathlib.Tactic.NormNum.Basic
import Mathlib.Tactic.Positivity.Core

theorem foo {α : Type*} [Semifield α] [LinearOrder α] [IsStrictOrderedRing α] (a₁ a₂ : α) (h : a₁ < a₂) : 0 < 2 := by
  positivity
  -- exact Nat.zero_lt_two

**Review by grunweg — COMMENTED** [review]
Almost there: just two files left.

File: Mathlib/Analysis/NormedSpace/OperatorNorm/NNNorm.lean (hunk 5 above)
Comment (JovanGerb) [reply Mathlib/Analysis/NormedSpace/OperatorNorm/NNNorm.lean]: The first goal is a side condition from `gcongr`, while the second goal is a subgoal from `gcongr`. Though I'd also be happy to use `exacts`. What do you think?

File: Mathlib/Algebra/Order/Field/Basic.lean (hunk 7 above)
Comment (JovanGerb) [reply Mathlib/Algebra/Order/Field/Basic.lean]: Yes, it seems that this relies on a norm_num extension that isn't imported here.

File: Mathlib/Analysis/NormedSpace/OperatorNorm/NNNorm.lean (hunk 5 above)
Comment (grunweg) [reply Mathlib/Analysis/NormedSpace/OperatorNorm/NNNorm.lean]: I agree, exacts would be nice here.

File: Mathlib/Data/NNReal/Defs.lean [hunk 8]
```diff
@@ -322,8 +322,12 @@ noncomputable example : LinearOrder ℝ≥0 := by infer_instance
...
 @[gcongr] alias ⟨_, GCongr.toReal_le_toReal⟩ := coe_le_coe
 
-protected theorem _root_.Real.toNNReal_mono : Monotone Real.toNNReal := fun _ _ h =>
-  max_le_max h (le_refl 0)
+protected theorem _root_.Real.toNNReal_monotone : Monotone Real.toNNReal := fun _ _ h =>
+  max_le_max_right _ h
+
+@[gcongr]
+protected theorem _root_.Real.toNNReal_mono {r₁ r₂ : ℝ} (h : r₁ ≤ r₂) : r₁.toNNReal ≤ r₂.toNNReal :=
+  Real.toNNReal_monotone h
```
Comment (JovanGerb) [inline Mathlib/Data/NNReal/Defs.lean:330]: This lemma can be removed again after #28339 gets merged

**Review by grunweg — COMMENTED** [review]
Thanks!
maintainer merge

**Comment by grunweg** [comment]
> This PR doesn't do this, but what do you think about removing `calc` blocks by using `grw`? On the one hand I think calc blocks improve readability, but on the other hand I think often a calc block is just there because the `grw` tactic didn't exist yet when the proof was written.

As you say, I think it depends --- but when a calc block wanted to be `grw` but couldn't, rewriting it using `grw` is actually nicer.

**Review by bryangingechen — APPROVED** [review]
Thanks!
bors r+
